US06759428B2
851 mg (2.67 mmol) of methyl (2E)-2-azido-3-{4-[(tert-butoxycarbonyl)amino]phenyl}prop-2-enoate was dissolved in 40 mL toluene. The mixture was heated to 80° C. for 2 h, cooled, and concentrated. Purification by column chromatography, eluting with 25% ethyl acetate/hexane provided 551 mg of methyl 6-[(tert-butoxycarbonyl)amino]-1H-indole-2-carboxylate as a yellow solid.

reactant | methyl (2E)-2-azido-3-{4-[(tert-butoxycarbonyl)amino]phenyl}prop-2-enoate | 2.67 mmol, 851 mg | N(=[N+]=[N-])\C(\C(=O)OC)=C\C1=CC=C(C=C1)NC(=O)OC(C)(C)C | C15H18N4O4
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 6-[(tert-butoxycarbonyl)amino]-1H-indole-2-carboxylate | 551 mg | C(C)(C)(C)OC(=O)NC1=CC=C2C=C(NC2=C1)C(=O)OC | C15H18N2O4
